US08808703B2
Step 2: (15R,19R)-tert-butyl 15-amino-19-(dodecyloxy)-14-oxo-4,7,10,21-tetraoxa-17-thia-13-azatritriacontan-1-oate
To a solution of (15R,19R)-tert-butyl 15-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-19-(dodecyloxy)-14-oxo-4,7,10,21-tetraoxa-17-thia-13-azatritriacontan-1-oate (1 eq) was added 20% piperidine (50 eq) in 4:1 THF/DMF. The resulting solution was stirred for 15 minutes at 25° C. and then concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH/DCM to give the title product as a white solid.

reactant | (15R,19R)-tert-butyl 15-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-19-(dodecyloxy)-14-oxo-4,7,10,21-tetraoxa-17-thia-13-azatritriacontan-1-oate | 1 eq | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(NCCOCCOCCOCCC(=O)OC(C)(C)C)=O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C58H96N2O10S
reactant | piperidine | 50 eq | N1CCCCC1 | C5H11N
solvent | THF DMF | C1CCOC1.CN(C)C=O
product | (15R,19R)-tert-butyl 15-amino-19-(dodecyloxy)-14-oxo-4,7,10,21-tetraoxa-17-thia-13-azatritriacontan-1-oate | N[C@H](C(NCCOCCOCCOCCC(=O)OC(C)(C)C)=O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C43H86N2O8S
